data/mechanism_extracts/OrgLett/10.1021_acs.orglett.0c01470.json
{"doi": "10.1021_acs.orglett.0c01470", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical iodosulfonylation/spirocyclization of 1,5-enyne-containing para-quinone methides with arylsulfonyl hydrazides and KI to give iodosulfonated spirocyclohexadienone-containing (E)-indenes.", "mechanism_family": ["mediator_anodic", "paired_electrolysis", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of iodide (I-) to iodonium (I+) via loss of two electrons; I+ acts as redox mediator that oxidizes TsNHNH2 to generate arylsulfonyl iodide (Ts-I) which homolyzes to a sulfonyl radical and an iodine radical (re-oxidized to I+ at the anode). Cathode reduces phenoxyl radical intermediate B' to phenolate anion C and reduces protons to H2.", "key_intermediates": [{"name": "iodonium cation (I+) generated by anodic oxidation of I-", "smiles": "[I+]", "role": "reactive"}, {"name": "arylsulfonyl iodide (Ts-I) from TsNHNH2 + I+", "smiles": "O=S(=O)(I)c1ccc(C)cc1", "role": "transient"}, {"name": "arylsulfonyl radical A", "smiles": "[O-][S+](=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "cyclohexadienone carbon radical B (sulfonyl 1,6-addition adduct to p-QM)", "smiles": null, "role": "reactive"}, {"name": "phenol-type aromatic radical B' (zwitterionic resonance form of B)", "smiles": null, "role": "transient"}, {"name": "phenolate anion C (cathodic reduction of B')", "smiles": null, "role": "reactive"}, {"name": "vinyl/alkenyl iodonium-alkyne adduct D (I+ added to alkyne of C)", "smiles": null, "role": "reactive"}, {"name": "diarylmethyl sulfone 4 (proposed key intermediate isolated by control)", "smiles": null, "role": "stoichiometric_intermediate"}], "electron_flow": "Anode oxidizes I- to I+ (2 e-), which oxidizes TsNHNH2 to Ts-I; homolysis gives Ts• that adds 1,6 to the p-QM alkene to form cyclohexadienone radical B, which tautomerizes to phenoxyl radical B'; the cathode reduces B' to phenolate C, then I+ activates the tethered alkyne and intramolecular 5-exo-dig ipso-cyclization furnishes the iodo-spiroindene 3a, with concomitant cathodic reduction of protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "no current control", "smiles": null, "purpose": "other", "observation": "No product 3a formed without electric current, confirming electrochemistry is essential."}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Complete inhibition of reaction (0% 3a), supporting a radical pathway."}, {"name": "diarylmethyl sulfone 4 (isolated intermediate) + KI under standard conditions", "smiles": null, "purpose": "intermediate_trap", "observation": "Gave 3a (28%) plus recovered p-QM 1a (47%), implicating 4 as an on-pathway intermediate."}, {"name": "intermediate 4 + TsNHNH2 + KI", "smiles": null, "purpose": "intermediate_trap", "observation": "Gave 3a in 80% yield, confirming 4 as a key intermediate."}, {"name": "intermediate 4 + NIS / NaOH (no current)", "smiles": "O=C1N(I)C(=O)CC1", "purpose": "intermediate_trap", "observation": "Gave 3a in 71% yield, indicating that I+ (electrogenerated) activates the alkyne for nucleophilic cyclization."}, {"name": "Cyclic voltammetry of KI, 1a, 2a and mixtures", "smiles": null, "purpose": "redox_probe", "observation": "Only KI-containing solutions show an oxidation peak at 1.85 V vs Ag/AgCl; 1a and 2a are not oxidized in 0-3.0 V window, so KI is the species oxidized at the anode."}], "evidence_types_used": ["intermediate_trap_TEMPO", "isolation_of_intermediate", "stoichiometric_intermediate", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "KI plays a triple role: electrolyte, redox mediator/catalyst (I-/I+), and iodine source for product C-I bond. Cathodic half-reaction is proton reduction to H2 (paired electrolysis). The (E)-selectivity arises from a 5-exo-dig ipso-cyclization of intermediate D. n-Butyl and cyclopropyl alkynyl substrates (1q, 1r) failed, suggesting aryl stabilization of the vinyl cation/radical at the alkyne terminus is required."}
